US07776867B2
Step 1: Synthesis of (2-Chloro-2-nitro-vinyl)-benzene
The title compound was prepared by the method of Dauzonne, D.; Demerseman, P. Synthesis 1990, 66-70. Benzaldehyde (3.59 g, 33.8 mmol), bromonitromethane (9.0 g, 64.3 mmol), dimethylamine hydrochloride (24.8 g, 304.2 mmol), potassium fluoride (spray-dried, 0.3 g, 5.08 mmol) and m-xylenes (85 mL) were combined in a 250 mL round bottom flask. The flask was then connected to a Dean-Stark trap and a reflux condenser and the mixture was heated at reflux with azeotropic removal of water for 24 h. After cooling to room temperature, the reaction solution was decanted from the excess dimethylamine hydrochloride solids, and rinsed with dichloromethane. The dichloromethane and xylenes were then combined and concentrated under reduced pressure. The crude brown oil was taken up in CH2Cl2 and washed with water. The dimethylamine hydrochloride solids were taken up in 1:1 CH2Cl2/water. After separation of the organic layers, the aqueous fraction was extracted three times with CH2Cl2. The combined organics were dried over MgSO4 and concentrated. Purification by flash chromatography (SiO2, gradient eluent: 5% CH2Cl2/hexanes to 10% CH2Cl2/hexanes to 15% CH2Cl2/hexanes) afforded (2-Chloro-2-nitro-vinyl)-benzene.

reactant | Benzaldehyde | 33.8 mmol, 3.59 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | bromonitromethane | 64.3 mmol, 9.0 g | BrC[N+](=O)[O-] | CH2BrNO2
reactant | dimethylamine hydrochloride | 304.2 mmol, 24.8 g | Cl.CNC
reactant | potassium fluoride | 5.08 mmol, 0.3 g | [F-].[K+]
solvent | water | O | H2O
product | (2-Chloro-2-nitro-vinyl)-benzene | ClC(=CC1=CC=CC=C1)[N+](=O)[O-] | C8H6ClNO2
